US07964608B2
3-(3-Chloro-phenyl)-1-cyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (55 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.48 mmol) and 1-chloro-3-isocyanato-benzene (0.72 mmol) following general procedure C. LCMS: m/z 422 [M+1]+.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.48 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 1-chloro-3-isocyanato-benzene | 0.72 mmol | ClC1=CC(=CC=C1)N=C=O | C7H4ClNO
product | 3-(3-Chloro-phenyl)-1-cyclopentyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione | 55 mg | ClC=1C=C(C=CC1)N1C(N(C2=C(C=NC=3C(=CC=CC23)OC)C1=O)C1CCCC1)=O | C23H20ClN3O3
